US08710000B2
Step 6: 17-(3-{tert-Butoxycarbonyl[2-(2,5-dioxopyrrolidin-1-yloxycarbonyl)ethyl]amino}propionylamino)heptadecanoic acid tert-butyl ester
17-{3-[tert-Butoxycarbonyl (2-carboxyethyl)amino]propionylamino}heptadecanoic acid tert-butyl ester (0.122 g, 0.2 mmol) was dissolved in THF (5 mL). DIEA (39 ul) was added and the mixture was cooled to 0° C. TSTU (66 mg, 0.22 mmol) was added. The mixture was stirred at 0° C. for 30 min, then for 16 h at RT. The mixture was concentrated under vacuum. AcOEt (15 mL) and the solution was washed with 0.2 N HCl (5 ml) and sat. NaCl (5 ml), dried over MgSO4, and dried under vacuum. The residue was purified by flash chromatography (silica) eluting with AcOEt/heptane (9:1) and AcOEt. The appropriate fractiones were pooled and concentrated under vacuum to yield 58 mg.

reactant | 17-{3-[tert-Butoxycarbonyl (2-carboxyethyl)amino]propionylamino}heptadecanoic acid tert-butyl ester | 0.2 mmol, 0.122 g | C(C)(C)(C)OC(CCCCCCCCCCCCCCCCNC(CCN(CCC(=O)O)C(=O)OC(C)(C)C)=O)=O | C32H60N2O7
reactant | DIEA | 39 ul | CCN(C(C)C)C(C)C | C8H19N
reactant | TSTU | 0.22 mmol, 66 mg | [B-](F)(F)(F)F.CN(C)C(=[N+](C)C)ON1C(=O)CCC1=O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 17-(3-{tert-Butoxycarbonyl[2-(2,5-dioxopyrrolidin-1-yloxycarbonyl)ethyl]amino}propionylamino)heptadecanoic acid tert-butyl ester | C(C)(C)(C)OC(CCCCCCCCCCCCCCCCNC(CCN(CCC(=O)ON1C(CCC1=O)=O)C(=O)OC(C)(C)C)=O)=O | C36H63N3O9
